US06413938B1
5,6-Dichloro-4-fluoro-N-(1-methylethyl)-1H-benzimidazol-2-amine (0.85 g, 3.24 mmol), N,O-bis(trimethylsilyl)acetamide (0.89 mL, 0.73 g, 3.60 mmol), trimethylsilyl trifluromethanesulfonate (0.45 mL, 0.53 g, 2.25 mmol), 1,2,3-tri-O-acetyl-5-deoxy-ribofuranose (1.15 g, 4.42 mmol) and 1,2-dichloroethane were used according to general procedure II. The title compounds were purified by silica gel chromatography using 95:5 dichloromethane-acetonitrile to first provide 5,6-dichloro-4-fluoro-1-(2,3-di-O-acetyl-5-deoxy-beta-D-ribofuranosyl)-N-(1-methylethyl)-1H-benzimidazol-2-amine as a white foam (0.66 g, 44%); 1H NMR (DMSO-d6) δ: 7.49 (s, 1H, Ar—H), 7.05 (d, J=7.4 Hz, 1H, NH), 6.09 (d, J=6.8 Hz, 1H, CH), 5.57 (t, J=7.2 Hz, 1H, CH), 5.24 (dd, J=7.4, 5.3 Hz, 1H, CH), 4.12 (m, 2H, overlapping CH), 2.14 (s, 3H, CH3), 2.01 (s, 3H, CH3), 1.49 (d, J=6.3 Hz, CH3), 1.24 (m, 6H, overlapping CH3). The second fraction provided 5,6-dichloro-7-fluoro-1-(2,3-di-O-acetyl-5-deoxy-beta-D-ribofuranosyl)-N-(1-methylethyl)-1H-benzimidazol-2-amine as a white foam (0.39 g, 26%); 1H NMR (DMSO-d6) δ: 7.37 (s, 1H, Ar—H), 7.12 (d, J=7.4 Hz, 1H, NH), 6.08 (d, J=5.4 Hz, 1H, CH), 5.32 (t, J=6.8 Hz, 1H, CH), 4.98 (t, J=7.3 Hz, 1H, CH), 4.10 (m, 2H, overlapping CH), 2.10 (s, 3H, CH3), 2.04 (s, 3H, CH3), 1.41 (d, J=6.2 Hz, CH3), 1.23 (m, 6H, overlapping CH3).

reactant | 5,6-Dichloro-4-fluoro-N-(1-methylethyl)-1H-benzimidazol-2-amine | 3.24 mmol, 0.85 g | ClC1=C(C2=C(NC(=N2)NC(C)C)C=C1Cl)F | C10H10Cl2FN3
reactant | N,O-bis(trimethylsilyl)acetamide | 3.60 mmol, 0.89 mL, 0.73 g | C/C(=N\[Si](C)(C)C)/O[Si](C)(C)C | C8H21NOSi2
reactant | trimethylsilyl trifluromethanesulfonate | 2.25 mmol, 0.45 mL, 0.53 g | FC(S(=O)(=O)O[Si](C)(C)C)(F)F | C4H9F3O3SSi
reactant | 1,2,3-tri-O-acetyl-5-deoxy-ribofuranose | 4.42 mmol, 1.15 g | C(C)(=O)OC1[C@H](OC(C)=O)[C@H](OC(C)=O)[C@H](O1)C | C11H16O7
solvent | 1,2-dichloroethane | ClCCCl | C2H4Cl2
product | 5,6-dichloro-7-fluoro-1-(2,3-di-O-acetyl-5-deoxy-beta-D-ribofuranosyl)-N-(1-methylethyl)-1H-benzimidazol-2-amine | 0.39 g, 26% | ClC1=CC2=C(N(C(=N2)NC(C)C)[C@H]2[C@H](OC(C)=O)[C@H](OC(C)=O)[C@H](O2)C)C(=C1Cl)F | C19H22Cl2FN3O5
